US08703768B2
Step 1: 1-Methyl-4-nitro-1H-pyrazole-3-carboxylic acid dimethylamide
A solution of 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid (500 mg, 2.92 mmol) in DMF (5 ml) under inert gas atmosphere was treated with TBTU (1030 mg, 3.2 mmol), dimethylamine hydrochloride (262 mg, 3.2 mmol) and N,N-diisopropylethylamine (2.0 ml, 11.7 mmol) and stirring was continued for 4 h. All volatiles were removed and the crude product was extracted with water and ethyl acetate. The organic phase was washed with sodium bicarbonate and the aqueous phases were back-extracted with ethyl acetate and dichloromethane. The combined organic phases were dried and the solvent was evaporated. The product was obtained after purification by silica gel chromatography using a dichloromethane/methanol gradient as white solid (230 mg, 40%).

reactant | 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid | 2.92 mmol, 500 mg | CN1N=C(C(=C1)[N+](=O)[O-])C(=O)O | C5H5N3O4
reactant | TBTU | 3.2 mmol, 1030 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | dimethylamine hydrochloride | 3.2 mmol, 262 mg | Cl.CNC
reactant | N,N-diisopropylethylamine | 11.7 mmol, 2.0 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-4-nitro-1H-pyrazole-3-carboxylic acid dimethylamide | CN(C(=O)C1=NN(C=C1[N+](=O)[O-])C)C | C7H10N4O3
